US05571506
Step 2: Preparation of 4-Acetoxy-6-bromo-3-methoxybenzaldehyde
To a mixture of 4-acetoxy-3-methoxybenzaldehyde (75.7 g), anhydrous sodium acetate (76 g) and iodine (0.8 g) in acetic acid (300 ml) is added bromine (21 ml). The mixture is warmed to 45° C. for about 1 hour, then stirred stirred at room temperature for 3 days, poured into water (700 ml) and filtered. The solid is dissolved in toluene and the solution washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is recrystallized twice from hexanes to give the desired product.

reactant | 4-acetoxy-3-methoxybenzaldehyde | 75.7 g | C(C)(=O)OC1=C(C=C(C=O)C=C1)OC | C10H10O4
reactant | sodium acetate | 76 g | C(C)(=O)[O-].[Na+]
reactant | iodine | 0.8 g | II | I2
reactant | bromine | 21 ml | BrBr | Br2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
solvent | water | 700 ml | O | H2O
product | 4-Acetoxy-6-bromo-3-methoxybenzaldehyde | C(C)(=O)OC1=C(C=C(C=O)C(=C1)Br)OC | C10H9BrO4
